US05618798
I. Sucrose octasulfate
254.7 g (1.6 mol) of sulfur trioxide pyridine were slurried in 1300 ml of water-free pyridine. With stirring, 68.5 g (0.2 mol) of sucrose were added. The reaction mixture was heated to 65° C. and kept at this temperature for 240 minutes. As the reaction proceeded, the substance was separated as a thick flowing oil. When the reaction was terminated, the agitator was stopped, the pyridine phase was decanted, and the oily phase was dissolved in 600 ml of ion-exchanged water.

reactant | sulfur trioxide pyridine | 1.6 mol, 254.7 g | N1=CC=CC=C1.S(=O)(=O)=O
reactant | sucrose | 0.2 mol, 68.5 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
solvent | water | 1300 ml | O | H2O
product | Sucrose octasulfate | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)COS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O)COS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O | C12H22O35S8
